US04083837
Phenyldiazomethane
To benzaldehyde hydrazone (5.95 g, 0.05 moles) in 1,2-dichloroethane (50 ml) containing 1,1,3,3-tetramethylguanidine (26.4 ml) and iodine (2 ml, 1% w/v solution) was added peracetic acid solution (11.4 ml, 1.27 × 0.05 moles) over 12 minutes at 0°. The red solution, which was gently evolving nitrogen, was stirred for 20 minutes at 0° to -5° before being washed with water (5 × 250 ml) and made up to 250 ml in a volumetric flask. An aliquot (50 ml) treated with excess acetic acid yielded 199 ml gas at NTP which corresponded to a yield of diazoalkane of 88.9%.

reactant | benzaldehyde hydrazone | 0.05 moles, 5.95 g | C(C1=CC=CC=C1)=NN | C7H8N2
reactant | 1,1,3,3-tetramethylguanidine | 26.4 ml | CN(C(=N)N(C)C)C | C5H13N3
reactant | iodine | 2 ml | II | I2
reactant | peracetic acid | 0.05 moles, 11.4 ml | C(C)(=O)OO | C2H4O3
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | Phenyldiazomethane | 199 ml | C1(=CC=CC=C1)C=[N+]=[N-] | C7H6N2
